US06624302B2
Under a N2 atmosphere, 2-bromoethanol (17.6 g, 141 mmol) and 2-methoxypropene (10.0 g, 141 mmol) were stirred in 71 mL of THF at 0° C. for 30 minutes The resulting solution was added to a stirring mixture of 5-bromoindole (22.83 g, 116 mmol) and 60% NaH (4.62 g, 193 mmol) in 40 mL of DMF and 60 mL of THF. The solution was stirred at ambient temperature for 4 hours. The reaction mixture was worked up by quenching the excess of NaH with water and removing the aqueous layer. The organic layer was vigorously stirred with 200 mL of 2% aqueous phosphoric acid for 5 hours when the layers were separated. The organic layer was washed with water (2×200 mL) and the solvent removed. The residue was purified by column chromatography (30:70 EtOAc-Hex) to give 17 g of 1-(2-hydroxylethyl)-5-bromoindole.

reactant | 2-bromoethanol | 141 mmol, 17.6 g | BrCCO | C2H5BrO
reactant | 2-methoxypropene | 141 mmol, 10.0 g | COC(=C)C | C4H8O
reactant | 5-bromoindole | 116 mmol, 22.83 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | NaH | 193 mmol, 4.62 g | [H-].[Na+]
solvent | THF | 71 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-(2-hydroxylethyl)-5-bromoindole | 17 g | OCCN1C=CC2=CC(=CC=C12)Br | C10H10BrNO
